US08114881B2
d) 6-(3,3-Diethoxyprop-1-ynyl)-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide
6-Bromo-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide (0.10 g, 0.247 mmol), propargylaldehyde diethyl acetal (0.48 mg, 0.370 mmol), copper(I) iodide (0.001 mg, 0.005 mmol) and Et3N (1 ml) in THF (1 ml) were placed in a glass tube for microwave synthesis. The mixture was degassed with argon and Pd(Cl2) (PPh3)2 (0.007 g) was added. The tube was sealed and heated with stirring at 60° C. (150 W) in a microwave heater for 20 minutes. The mixture was diluted with EtOAc (5 ml) and filtered. The solution was concentrated in vacuo and was then purified on silica to give the title compound (28 mg, 25%).

reactant | 6-Bromo-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 0.247 mmol, 0.10 g | BrC1=C(N(C(C(=N1)C(=O)N(C)C)=O)C1=CC(=CC=C1)C(F)(F)F)C | C15H13BrF3N3O2
reactant | propargylaldehyde diethyl acetal | 0.370 mmol, 0.48 mg | C(C)OC(C#C)OCC | C7H12O2
reactant | Et3N | 1 ml | CCN(CC)CC | C6H15N
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | copper(I) iodide | 0.005 mmol, 0.001 mg | [Cu]I
product | 6-(3,3-Diethoxyprop-1-ynyl)-N,N,5-trimethyl-3-oxo-4-[3-(trifluoromethyl)phenyl]-3,4-dihydropyrazine-2-carboxamide | 28 mg, 25% | C(C)OC(C#CC1=C(N(C(C(=N1)C(=O)N(C)C)=O)C1=CC(=CC=C1)C(F)(F)F)C)OCC | C22H24F3N3O4
